US04730005
(a) 2-[5-(4-acetyl-3-hydroxy-2-propylphenoxy)pentoxy]benzaldehyde
A solution of salicylaldehyde (82 mmoles) in acetone (50 ml) was added dropwise to a refluxing solution of 1,5-dibromopentane (90.2 mmoles), potassium carbonate (90.2 mmoles) and potassium iodide (0.4 g) in acetone (200 ml). The mixture was refluxed for 18 hours, filtered and the filtrate concentrated. The residue was dissolved in ether and washed with cold 10% sodium hydroxide solution, water and brine. The organic layer was dried over magnesiun sulfate and concentrated. The product was purified by flash chromatography (4% ethyl acetate/hexane) to give 2-(5-bromopentoxy)benzaldehyde. A mixture of this compound (11.1 mmoles), 4-acetyl-3-hydroxy-2-propyl phenol (11.62 mmoles) and potassium carbonate (5.55 mmoles) in acetone (30 ml) was refluxed for 5 days, stirred at room temperature for 2 days and then refluxed for 24 hours. The suspension was cooled to room temperature, filtered and the filtrate concentrated. The residue was dissolved in ethyl acetate and then washed with ice-cold 5% sodium hydroxide solution, water and brine. The dried solution was concentrated and the product flash chromatographed to give the desired product.

reactant | 4-acetyl-3-hydroxy-2-propyl phenol | 11.62 mmoles | C(C)(=O)C1=C(C(=C(C=C1)O)CCC)O | C11H14O3
reactant | potassium carbonate | 5.55 mmoles | C([O-])([O-])=O.[K+].[K+]
reactant | acetone | 30 ml | CC(=O)C | C3H6O
product | 2-[5-(4-acetyl-3-hydroxy-2-propylphenoxy)pentoxy]benzaldehyde | C(C)(=O)C1=C(C(=C(OCCCCCOC2=C(C=O)C=CC=C2)C=C1)CCC)O | C23H28O5
